US07312330B2
D. N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine
7-Benzyl-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine (13 g, 33.8 mmol) was dissolved in methanol (50 mL) and palladium hydroxide (20% wt. % (dry basis) on carbon) was added (5.0 g). The mixture was shaken on a Parr Shaker under H2(g) atmosphere (60 PSI) for 20 hours. The mixture was filtered through celite and evaporated to give 9.0 g of material as a grey solid (91%). 1.5 g of this material was purified on alumina in 10% MeOH-DCM to give 600 mg of the pure compound as an off white solid.

reactant | 7-Benzyl-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | 33.8 mmol, 13 g | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)NC1=CC=C(C=C1)C(F)(F)F | C21H19F3N4
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | 9.0 g, 91% | FC(C1=CC=C(C=C1)NC=1C2=C(N=CN1)CNCC2)(F)F | C14H13F3N4
